US07772246B2
To a solution of (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol (B-1-3) (0.52 g, 1.34 mmol) in toluene (21 mL) and EtOH (7 mL) were added 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (B-3-2) (1 g, 2.68 mmol in theory) and 2 N aq. Na2CO3 (2 mL). The resulting mixture was degassed under N2 for 2 minutes. Then Pd(PPh3)4 (0.15 g, 0.134 mmol) was added and the mixture was degassed again. The reaction was heated to 80-90° C. and stirred overnight. The mixture was cooled. The organic layer was separated and concentrated. The residue was purified by prep. HPLC to afford (2S)-1-(4-(3-(6-amino-5-methylpyridin-3-yl)-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol (B-3) (0.057 g, 11.6%) as a light yellow solid.

reactant | (2S)-1-(4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol | 1.34 mmol, 0.52 g | IC1=NN(C=C1C1=NC(=NC=C1)NC[C@H](C)O)C(C)C | C13H18IN5O
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 2.68 mmol, 1 g | CC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H19BN2O2
reactant | Na2CO3 | 2 N, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.134 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-1-(4-(3-(6-amino-5-methylpyridin-3-yl)-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ylamino)propan-2-ol | 0.057 g, 11.6% | NC1=C(C=C(C=N1)C1=NN(C=C1C1=NC(=NC=C1)NC[C@H](C)O)C(C)C)C | C19H25N7O
